US05834506
[5-tert-Butyl-2-methyl-4-(toluene-4-sulfonylsulfanyl)-phenoxy]-acetic acid
1.86 g (7.9 mmol, 2 equivalents) tosyl bromide and 1.05 mL (7.9 mmol) NEt3 were combined in 200 mL CCl4 and the mixture chilled in an ice bath under nitrogen. To this mixture was added a solution of 1.06 g (3.95 mmol) of (5-tert-butyl-4-mercapto-2-methyl-phenoxy)acetic acid methyl ester (prepared in Example MMMM) in 125 mL of CCl4 over 3 hours, and the reaction was allowed to come to ambient temperature overnight. The mixture was then diluted with CH2Cl2, washed with aqueous ammonium chloride and aqueous sodium chloride, and dried (Na2SO4). Concentration gave a residue which was chromatographed on silica gel eluting with 3:1 hexanes:EtOAc to yield the title compound. 1H NMR (CDCl3) δ 1.25 (s, 9 H), 2.14 (s, 3 H), 2.43 (s, 3 H), 3.82 (s, 3 H), 4.68 (s, 2 H), 6.75 (s, 1 H), 7.14 (s, 1 H), 7.25 (d, 2 H), 7.50 (d, 2 H).

reactant | tosyl bromide | 7.9 mmol, 1.86 g, 2 equivalents | S(=O)(=O)(C1=CC=C(C)C=C1)Br | C7H7BrO2S
reactant | NEt3 | 7.9 mmol, 1.05 mL | CCN(CC)CC | C6H15N
reactant | (5-tert-butyl-4-mercapto-2-methyl-phenoxy)acetic acid methyl ester | 3.95 mmol, 1.06 g | COC(COC1=C(C=C(C(=C1)C(C)(C)C)S)C)=O | C14H20O3S
solvent | CCl4 | 200 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CCl4 | 125 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [5-tert-Butyl-2-methyl-4-(toluene-4-sulfonylsulfanyl)-phenoxy]-acetic acid | C(C)(C)(C)C=1C(=CC(=C(OCC(=O)O)C1)C)SS(=O)(=O)C1=CC=C(C=C1)C | C20H24O5S2
